US06723722B1
A solution of 2,2-dimethoxyethylamine (3 g) and triethylamine (4.318 g) in tetrahydrofuran (120 ml) was treated portionwise at 0° C. with 6-chloronaphthalene-2-sulfonyl chloride (7.45 g) and stirred at 0° C. for 30 minutes. The reaction mixture was combined with water and ethyl acetate to separate the organic phase, which was washed with an aqueous solution of citric acid and brine, dried and concentrated to obtain N-(2,2-dimethoxyethyl)-6-chloro-2-naphthalenesulfonamide as a colorless oil.

reactant | 2,2-dimethoxyethylamine | 3 g | COC(CN)OC | C4H11NO2
reactant | triethylamine | 4.318 g | C(C)N(CC)CC | C6H15N
reactant | 6-chloronaphthalene-2-sulfonyl chloride | 7.45 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2,2-dimethoxyethyl)-6-chloro-2-naphthalenesulfonamide | COC(CNS(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)OC | C14H16ClNO4S
